US07427635B2
To a solution of (R)-3-[(R)-2-azido-2-(4-methoxy-3-methyl-phenyl)-acetyl]-4-benzyl-oxazolidin-2-one (8 g, 21 mmol) and di-tert-butyl dicarbonate (9.2 g, 42 mmol) in ethyl acetate (100 mL) was added 10% palladium on charcol (3 g) under nitrogen. The resulting suspension was vigorously shaken under hydrogen at 55 psi pressure in a Parr apparatus for 24 hours. The mixture was then filtered through a short pad of celite, and the filtrate was concentrated. The residue was purified by chromatography over silica gel eluted with 1:4 ethyl acetate/hexanes to give [(R)-2-((R)-4-benzyl-2-oxo-oxazolidin-3-yl)-1-(4-methoxy-3-methyl-phenyl)-2-oxo-ethyl]-carbamic acid tert-butyl ester as a yellow oil (6.05 g, 63%).

reactant | (R)-3-[(R)-2-azido-2-(4-methoxy-3-methyl-phenyl)-acetyl]-4-benzyl-oxazolidin-2-one | 21 mmol, 8 g | N(=[N+]=[N-])[C@@H](C(=O)N1C(OC[C@H]1CC1=CC=CC=C1)=O)C1=CC(=C(C=C1)OC)C | C20H20N4O4
reactant | di-tert-butyl dicarbonate | 42 mmol, 9.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium | [Pd] | Pd
product | [(R)-2-((R)-4-benzyl-2-oxo-oxazolidin-3-yl)-1-(4-methoxy-3-methyl-phenyl)-2-oxo-ethyl]-carbamic acid tert-butyl ester | 6.05 g, 63% | C(C)(C)(C)OC(N[C@@H](C(=O)N1C(OC[C@H]1CC1=CC=CC=C1)=O)C1=CC(=C(C=C1)OC)C)=O | C25H30N2O6
